US04868185
Ethyl 6-(4-fluorophenyl)-1,6-dihydro-2,4-dimethyl-5-pyrimidinecarboxylate (75.7 g, 0.274 mol) and 9.67 g (0.3 mol) of powdered sulfur were heated together at 130°-150° C. for three and one-half hours. Afterhydrogen sulfide evolution had ceased, the melt was cooled to room temperature and flash chromatographed on silica gel, eluting with 10% ethyl acetate/hexane, to yield 48.7 g of ethyl 4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinecarboxylate.

reactant | Ethyl 6-(4-fluorophenyl)-1,6-dihydro-2,4-dimethyl-5-pyrimidinecarboxylate | 0.274 mol, 75.7 g | FC1=CC=C(C=C1)C1C(=C(N=C(N1)C)C)C(=O)OCC | C15H17FN2O2
reactant | sulfur | 0.3 mol, 9.67 g | [S] | S
product | ethyl 4-(4-fluorophenyl)-2,6-dimethyl-5-pyrimidinecarboxylate | 48.7 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OCC)C)C | C15H15FN2O2
